US06046195
b) 3-Bromo-4-(trifluoroacetamido)anisole
2-Bromo-4-methoxyaniline (4 g, 0.02 mol) was dissolved in dichloromethane (30 ml) containing triethylamine (2.77 ml, 0.02 mol). The solution was cooled to -10° C. and trifluoroacetic anhydride (2.81 ml, 0.02 mol) was added slowly. The reaction was stirred at ambient temperature for 15 minutes, diluted with dichloromethane (50 ml) and washed with water (2×50 ml). The organic layer was dried over magnesium sulphate and the solvent was removed in vacuo. Chromatography on silica eluting with 10-15% ethyl acetate in hexane afforded the title compound as an orange solid (4.7 g, 79%). 1H NMR (360 MHz, CDCl3) δ 3.81 (3H, s), 6.92 (1H, dd, J 2.8 Hz, J 9.1 Hz), 7.15 (1H, d, J 2.8 Hz), 8.14 (1H, d, J 9.1 Hz), 8.23 (1H, broad s).

reactant | 2-Bromo-4-methoxyaniline | 0.02 mol, 4 g | BrC1=C(N)C=CC(=C1)OC | C7H8BrNO
reactant | triethylamine | 0.02 mol, 2.77 ml | C(C)N(CC)CC | C6H15N
reactant | trifluoroacetic anhydride | 0.02 mol, 2.81 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 3-Bromo-4-(trifluoroacetamido)anisole | 4.7 g, 79% | BrC=1C=C(C=CC1NC(C(F)(F)F)=O)OC | C9H7BrF3NO2
